US04490369
1-[7,8-Dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl]-3-[N-methyl-N-(2-{4-amino-3,5-dibromo-phenyl}-ethyl)-amino]-propane
This compound was prepared analogous to Example 12 from N-[-3-(7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl)-propyl]-methylamine and 2-(4-amino-3,5-dibromophenyl)-ethyl chloride.

reactant | N-[-3-(7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl)-propyl]-methylamine | COC1=CC2=C(CC(N(CC2)CCCNC)=O)C=C1OC | C16H24N2O3
reactant | 2-(4-amino-3,5-dibromophenyl)-ethyl chloride | NC1=C(C=C(C=C1Br)CCCl)Br | C8H8Br2ClN
product | 1-[7,8-Dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl]-3-[N-methyl-N-(2-{4-amino-3,5-dibromo-phenyl}-ethyl)-amino]-propane | COC1=CC2=C(CC(N(CC2)CCCN(CCC2=CC(=C(C(=C2)Br)N)Br)C)=O)C=C1OC | C24H31Br2N3O3
